US04071519
13.0g (0.10 mole) of 5-fluorouracil was suspended in 60 ml of dimethyl acetamide, then 14.0g (0.11 mole) of n-hexyl isocyanate was added thereto at room temperature and stirred at 50° C for 8 hours. After the reaction mixture was concentrated under reduced pressure, the residue was poured into 400 ml of water and resultant precipitate was filtered off. The precipitate was washed and dried and 19.3g (75.0% yield) of 5-fluoro-1-(n-hexylcarbamoyl)uracil was obtained.

reactant | 5-fluorouracil | 0.10 mole, 13.0g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | n-hexyl isocyanate | 0.11 mole, 14.0g | C(CCCCC)N=C=O | C7H13NO
solvent | dimethyl acetamide | 60 ml | CC(=O)N(C)C | C4H9NO
product | 5-fluoro-1-(n-hexylcarbamoyl)uracil | 19.3g, 75.0% yield | FC=1C(NC(N(C1)C(NCCCCCC)=O)=O)=O | C11H16FN3O3
